US08557872B2
Step 3: Synthesis of 3-(4-fluoro-2-propoxy-phenyl)-acrylic acid
3-(4-Fluoro-2-propoxy-phenyl)-acrylic acid methyl ester (134 mg, 0.563 mmol) was reacted with aqueous 1N LiOH (5 ml) as described above to yield title compound (117 mg, 92%).

reactant | 3-(4-Fluoro-2-propoxy-phenyl)-acrylic acid methyl ester | 0.563 mmol, 134 mg | COC(C=CC1=C(C=C(C=C1)F)OCCC)=O | C13H15FO3
reactant | LiOH | 1N, 5 ml | [Li+].[OH-]
product | 3-(4-fluoro-2-propoxy-phenyl)-acrylic acid | 117 mg, 92% | FC1=CC(=C(C=C1)C=CC(=O)O)OCCC | C12H13FO3
